US06706725B1
c) Dimethyl 4-{(E)-2-[2-(2-Ethyl-[1,3]dioxolan-2-yl)-4-thienyl]vinyl}phthalate
In a manner similar to that of Example 8(a), by reaction of 4.6 g (21.6 mmol) of 2-(2-ethyl-[1,3]dioxolan-2-yl)thiophene-4-carbaldehyde with 8.9 g (26 mmol) of dimethyl 4-(diethoxyphosphorylmethyl)-phthalate and 2.9 g (26 mmol) of potassium tert-butoxide, the desired product is obtained in the form of a yellow oil (m=7 g; Y=87%).

reactant | 2-(2-ethyl-[1,3]dioxolan-2-yl)thiophene-4-carbaldehyde | 21.6 mmol, 4.6 g | C(C)C1(OCCO1)C=1SC=C(C1)C=O | C10H12O3S
reactant | dimethyl 4-(diethoxyphosphorylmethyl)-phthalate | 26 mmol, 8.9 g | C(C)OP(=O)(OCC)CC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C15H21O7P
reactant | potassium tert-butoxide | 26 mmol, 2.9 g | CC(C)([O-])C.[K+]
product | Dimethyl 4-{(E)-2-[2-(2-Ethyl-[1,3]dioxolan-2-yl)-4-thienyl]vinyl}phthalate | C(C)C1(OCCO1)C=1SC=C(C1)/C=C/C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C21H22O6S
